US04975451
Under a nitrogen atmosphere, 10% of a solution of 119.0 grams (0.98 mole) of cyclopropyl bromide in 125 mL of tetrahydrofuran was added to a suspension of 25.5 grams (1.03 moles) of magnesium turnings in 300 mL of tetrahydrofuran. The reaction was initiated by warming the reaction mixture to 35° C. Upon initiation of the reaction the remainder of the bromide/tetrahydrofuran solution was added dropwise while maintaining the reaction mixture temperature at 40°-50° C. The complete addition required approximately 90 minutes, after which time the reaction mixture was stirred at 40°-50° C. for an additional 1 hour. The reaction mixture was cooled to 15°-20° C., and 140.0 grams (0.75 mole) of 4-trifluoromethoxybenzonitrile was added dropwise during a 90 minute period. The reaction mixture temperature was maintained at 25° C. or less throughout the addition. Upon completion of the addition the reaction mixture was allowed to return to ambient temperature where it stirred for 18 hours. After this time the reaction mixture was poured into 1000 mL of cold (10° C.) aqueous 2N hydrochloric acid. The mixture was stirred for 1 hour, and then it was extracted with one 1000 mL portion and two 50 mL portions of diethyl ether. The combined extracts were concentrated under reduced pressure to a residue. The residue was redissolved in 2000 mL of diethyl ether, and the solution was washed in turn with two 500 mL portions of aqueous 1N hydrochloric acid, one 500 mL portion of an aqueous solution saturated with sodium bicarbonate, two 500 mL portions of water, and one 300 mL portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under high vacuum yielding 149.7 grams of 4-trifluoromethoxyphenyl cyclopropyl ketone; b.p. 53°-56° C./0.04 mm.

reactant | cyclopropyl bromide | 0.98 mole, 119.0 grams | C1(CC1)Br | C3H5Br
reactant | magnesium | 1.03 moles, 25.5 grams | [Mg] | Mg
reactant | bromide tetrahydrofuran | [Br-].O1CCCC1
reactant | 4-trifluoromethoxybenzonitrile | 0.75 mole, 140.0 grams | FC(OC1=CC=C(C#N)C=C1)(F)F | C8H4F3NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-trifluoromethoxyphenyl cyclopropyl ketone | 149.7 grams | C1(CC1)C(=O)C1=CC=C(C=C1)OC(F)(F)F | C11H9F3O2
